2176-01-28 12:17:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2176-1-27**] 01:14 PM
 enterococcus from urine
 levophed weaned off
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2176-1-27**] 10:04 PM
   Ampicillin - [**2176-1-28**] 04:18 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2176-1-27**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Neurologic: confusion
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-1-28**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**77**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 111 (102 - 128) bpm
   BP: 97/48(59) {85/40(54) - 122/84(88)} mmHg
   RR: 21 (14 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,729 mL
                                                                    987 mL
   PO:
             250 mL
   TF:
   IVF:
                                                                  2,729 mL
                                                                    737 mL
   Blood products:
   Total out:
                                                                  4,150 mL
                                                                  2,480 mL
   Urine:
                                                                  4,150 mL
                                                                  2,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,579 mL
                                                                 -1,493 mL
   Respiratory support
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, president, yr=[**2115**], Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   197 K/uL
   101 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   9 mg/dL
   108 mEq/L
   141 mEq/L
   28.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2176-1-27**]  07:50 AM
                             [**2176-1-28**]  02:00 AM
   WBC
   5.8
   5.1
   Hct
   25.5
   28.7
   Plt
   222
   197
   Cr
   0.5
   0.5
   Glucose
   88
   101
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Ca++:9.1 mg/dL, Mg++:2.5
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   70F s/p Rt frontal mass resection [**2176-1-12**], h/o metastatic
   rhabdomyosarcoma presents with AMS and agitation.
   # Altered Mental Status:
   -much improved today though somewhat confused at times
   -limit sedating medications
   # Sepsis:
   -urinary tract origin
   -enterococcus in urine from cx at rehab
   -able to wean levophed
   -ampicillin & ceftriaxone
   # s/p right frontal mass resection:
   -neurosurg following
   -Continue dexamethasone, keppra
   # Malignancy:
   -h/o stage IV thoracic rhabdomyosarcoma - currently on chemotherapy
   -Rt frontal lesion path confirms metastatic rhabdomyosarcoma
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2176-1-27**] 05:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2176-01-29 09:28:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Feeling much better
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2176-1-28**] 10:00 PM
   Ampicillin - [**2176-1-29**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-1-29**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**77**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 106 (96 - 126) bpm
   BP: 110/56(68) {91/40(57) - 121/84(91)} mmHg
   RR: 27 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,087 mL
                                                                    280 mL
   PO:
                                                                    500 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,587 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,640 mL
                                                                    560 mL
   Urine:
                                                                  3,640 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,553 mL
                                                                   -280 mL
   Respiratory support
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI No(t) Normal, Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), holosyst at apex [**2-3**]
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , Dullness : on
   L), (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , Absent : on L, No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x1, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   204 K/uL
   108 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   10 mg/dL
   107 mEq/L
   142 mEq/L
   29.5 %
   4.3 K/uL
        [image002.jpg]
                             [**2176-1-27**]  07:50 AM
                             [**2176-1-28**]  02:00 AM
                             [**2176-1-29**]  03:06 AM
   WBC
   5.8
   5.1
   4.3
   Hct
   25.5
   28.7
   29.5
   Plt
   222
   197
   204
   Cr
   0.5
   0.5
   0.7
   Glucose
   88
   101
   108
   Other labs: PT / PTT / INR:12.6/24.6/1.1, Ca++:9.0 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   Hemodyn stable but remains tachycardic.  BP appears at baseline and she
   is now almost even in I&O for LOS.  BUN 10.  No signs of vol depetion.
   Her echo last mo had a compressed RA but seems unlikely tach is due to
   preload.  Will check TFTs.
   Narrowing abx to cover enterococcus.  Will obtain cx from [**Hospital1 2801**] - given low colony ct and nl wbc on transfer still concerned this
   was not sepsis.
   Will speak with NSurg re prednisone dosing - should she receive PCP
   prophylaxis
   [**Name9 (PRE) 3480**] plan re future oncologic care
   ICU Care
   Nutrition:
   Comments: full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2176-1-27**] 05:50 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes